US09422290B2
N6-Benzyl-N8-[1-(3-dimethylamino-propane-1-sulfonyl)-piperidin-4-yl]-3,N6-dimethyl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine III-7
N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine (0.05 g; 0.11 mmol; purity 80%) was slurred up in 0.3 ml DMA. 3-Dimethylamino-propane-1-sulfonyl chloride Hydrochlorid (0.03 g; 0.14 mmol) and DIPEA (0.06 ml; 0.34 mmol) were added and stirred at 50° C. for 16 hours. Another portion of 3-Dimethylamino-propane-1-sulfonyl chloride Hydrochlorid (0.03 g; 0.14 mmol) and DIPEA (0.06 ml; 0.34 mmol) were added and stirred at 50° C. for additional 16 hours. The crude material was purified by using reversed phase chromatography under acid conditions.

reactant | N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine | 0.11 mmol, 0.05 g | C(C1=CC=CC=C1)N(C=1C=C(C=2N(N1)C(=NN2)C)NC2CCNCC2)C | C19H25N7
reactant | 3-Dimethylamino-propane-1-sulfonyl chloride Hydrochlorid | 0.14 mmol, 0.03 g | Cl.CN(CCCS(=O)(=O)Cl)C
reactant | DIPEA | 0.34 mmol, 0.06 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-Dimethylamino-propane-1-sulfonyl chloride Hydrochlorid | 0.14 mmol, 0.03 g | Cl.CN(CCCS(=O)(=O)Cl)C
reactant | DIPEA | 0.34 mmol, 0.06 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 0.3 ml | CC(=O)N(C)C | C4H9NO
product | N6-Benzyl-N8-[1-(3-dimethylamino-propane-1-sulfonyl)-piperidin-4-yl]-3,N6-dimethyl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine | C(C1=CC=CC=C1)N(C=1C=C(C=2N(N1)C(=NN2)C)NC2CCN(CC2)S(=O)(=O)CCCN(C)C)C | C24H36N8O2S
